US06110962
(2-Benzyl-benzofuran-3-yl)-(2, 4-dimethoxy-phenyl)-methanone
Prepared from 2-benzyl-benzofuran and 2, 4-dimethoxybenzoyl chloride according to the procedure in Example 207. White solid (6.88g): mp 74-76C.; NMR (CDCl3); δ7.47(d, J=8Hz, 1 H), 7.40 (dd, J=2,1 Hz, 1 H), 7.31 - 7.24 (m, 5 H), 7.24 -7.19 (m, 2 H), 7.16 - 7.12 (m, 1 H), 6.55 (d, J=2, Hz, 1 H), 6.48 (s, 1 H), 4.29 (s, 2 H), 3.89 (s, 3 H), 3.58 (s, 3 H), MS (EI): [M*+m/z] 372(55%), 165(100%), 234(88%), Anal. Calc. for C24H20O4, C,77.40, H, 5.41, N, 0.00. Found: C, 77.48, H, 5.44, N, 0.09.

reactant | 2-benzyl-benzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1)C=CC=C2 | C15H12O
reactant | 2, 4-dimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
product | (2-Benzyl-benzofuran-3-yl)-(2, 4-dimethoxy-phenyl)-methanone | C(C1=CC=CC=C1)C=1OC2=C(C1C(=O)C1=C(C=C(C=C1)OC)OC)C=CC=C2 | C24H20O4
